US04870074
Preparation of 2-(2-chloroethyl)-4-benzyloxycarbonylmorpholine
To a mixture of 2-(2-hydroxyethyl)-4-benzyloxycarbonylmorpholine (15 g), dimethylformamide (1 ml), and chloroform (50 ml) is dropwise added thionyl chloride (16.3 ml). The mixture is refluxed for 2 hours, allowed to cool, and evaporated under reduced pressure to give the title compound (16 g) as an oil.

reactant | 2-(2-hydroxyethyl)-4-benzyloxycarbonylmorpholine | 15 g | OCCC1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 16.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-chloroethyl)-4-benzyloxycarbonylmorpholine | 16 g | ClCCC1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C14H18ClNO3
